US08541448B2
Intermediate 15.2: 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanol
Into a 250 ml 3-necked roundbottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanone (4.3 g, 14.01 mmol, 1.00 equiv) in methanol (50 mL). This was followed by the addition of NaBH4 (1.5 g, 39.47 mmol, 2.82 equiv) in several batches at 0° C. The resulting solution was stirred for 30 min at 0° C. in a water/ice bath. The reaction was then quenched by the addition of 20 mL of acetone. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:80-1:20). This resulted in 3.4 g (79%) of the title compound as a white solid.

reactant | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanone | 14.01 mmol, 4.3 g, 1.00 equiv | ClC1=C(CN(CC(=O)C2=CC=CC=C2)C)C=CC(=C1)Cl | C16H15Cl2NO
reactant | NaBH4 | 39.47 mmol, 1.5 g, 2.82 equiv | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanol | 3.4 g, 79% | ClC1=C(CN(CC(O)C2=CC=CC=C2)C)C=CC(=C1)Cl | C16H17Cl2NO
